US08193199B2
2-(1-(2-(2-Chlorophenyl)-7-fluoroquinolin-3-yl)ethyl)isoindoline-1,3-dione
To a solution of 1-(2-(2-chlorophenyl)-7-fluoroquinolin-3-yl)ethanol (0.7018 g, 2.326 mmol) in tetrahydrofuran (23.26 mL, 2.326 mmol) were added triphenylphosphine (1.220 g, 4.652 mmol), phthalimide (0.6844 g, 4.652 mmol), and diisopropyl azodicarboxylate (0.9159 mL, 4.652 mmol). The reaction mixture was stirred at room temperature. After 2 h, the mixture was concentrated under reduced pressure and partitioned between EtOAc (100 mL) and brine (100 mL). The organic layer was dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography on a 80 g of Redi-Sep™ column using 0 to 50% gradient of EtOAc in hexane over 25 min and 50% isocratic of EtOAc in hexane for 10 min as eluent to 2-(1-(2-(2-chlorophenyl)-7-fluoroquinolin-3-yl)ethyl)isoindoline-1,3-dione as an off-white solid: LC-MS (ESI) m/z 431.0 [M+H]+.

reactant | 1-(2-(2-chlorophenyl)-7-fluoroquinolin-3-yl)ethanol | 2.326 mmol, 0.7018 g | ClC1=C(C=CC=C1)C1=NC2=CC(=CC=C2C=C1C(C)O)F | C17H13ClFNO
reactant | tetrahydrofuran | 2.326 mmol, 23.26 mL | O1CCCC1 | C4H8O
reactant | triphenylphosphine | 4.652 mmol, 1.220 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phthalimide | 4.652 mmol, 0.6844 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | diisopropyl azodicarboxylate | 4.652 mmol, 0.9159 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
product | 2-(1-(2-(2-Chlorophenyl)-7-fluoroquinolin-3-yl)ethyl)isoindoline-1,3-dione | ClC1=C(C=CC=C1)C1=NC2=CC(=CC=C2C=C1C(C)N1C(C2=CC=CC=C2C1=O)=O)F | C25H16ClFN2O2
